Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / Penicillins / aspirin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Fevers, chills, dental infection
 
Major Surgical or Invasive Procedure:
Dental Implant Removal

 
History of Present Illness:
___ M with history of CLL, recent dental implant, presented after 
prolonged hospitalization ___ ___ due to a month of 
chills/nightsweats/low grade fevers with E.Coli & MSSA from 
nasal cultures.
.
Pt's troubles began following placement of a temporary tooth 
implant about 6 months ago, as well as a permanent tooth 
abuttment which was placed at the end of ___.  Prior 
to this surgeyr, he noted 4 days of "tenacious green discharge" 
accompanied by low grade fevers, chills, & night sweats, which 
he attributed to an infection of the implant.  He went to 3 
dentists who ordered X-rays, suspected sinus disease, & referred 
pt to ENT, whereupon he had a drainage procedure which yielded 
frank pus. The patient received 10 days of PO clindamycin 
___, although the drainage finally grew MSSA.  He 
was switched to doxycycline 100 mg BID for 2 weeks due to a 
significant PCN allergy, however, his fevers, chills, & sweats 
persisted.  
.
Soon thereafter he presented to an ID specialist who admitted 
him to a ___ hospital.  He was placed on vancomycin, which 
he feels was ineffective.  After developing pounding facial pain 
& headache, he again underwent an ENT sinus drainage, which grew 
E. Coli about 72 hours ago.  He received a night of aztreonam, 
which he felt helped reduce his symptoms.  Due to 
pan-sensitivity, he ___ switched to oral moxifloxacin & received 
2 doses including today.  He felt the team ___ ___ was 
dismissing his symptoms & requrested transfer to ___.  He was 
discharged just this morning and flew ___ this afternoon.  
.
He denies having had positive blood cultures despite notes to 
the contrary (his external records were unfortunately misplaced 
during his trip from the ED to the medical floors).  
.
He was transferred to ___ ED, where initial vitals were: 
98.3  79  146/96  16  96/RA
.
Pt was given 1250 mg vancomycin.  Blood & urine cultures were 
sent.  CXR positive only for coiling of R PICC line.
.
REVIEW OF SYSTEMS:
(+): As above.  Mild sinus tenderness to palpation.  
(-): Headache, vision changes, rhinorrhea, congestion, sore 
throat, cough, SOB, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
- Lymphoma:
--> ___: MGUS IgG, IgM
--> ___: Cutaneous T (large) cell anaplastic lymphoma (CD3+)
--> ___: Small lymphocytic lymphoma B-cell & CLL (LN bx) 
retroperitoneal & mesenteric nodes present
- BPH
- Mild chronic anemia
- ___: L upper (#14) dental implant
- ___: Permanent abutment placed
- ___: Sinus surgery: removal of L concha bullous, anterior 
ethmoidectomy & L maxillary antrostomy --> MSSA
- Back surgery:
--> ___: L5-S1
--> ___: microsurgery L4-L5
--> ___: microsurgery L3-L4
- L inguinal herniorrhaphy

 
Social History:
___
Family History:
- Non-contributory to dental infection
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
97.8  142/84  92  16  96/RA 
GEN: Well-appearing ___ NAD, comfortable, appropriate.
HEENT: NCAT, PERRLA, EOMI, MMM, OP clear. No masses or abscesses 
visualized. Mild tenderness on percussion of the L maxillary 
sinus.
NECK: Supple, no thyromegaly, no JVD
COR: +S1S2, RRR, no m/g/r.
PULM: CTAB, no c/w/r.
___: +NABS ___ 4Q. Soft, NTND.  No masses or HSM.
EXT: WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
SKIN: No rashes or lesions, no splinters, ___ lesions, ___ 
notes
LYMPH: No cervical, axillary, inguinal LAD
NEURO: Awake, A&Ox3, strength ___ bilaterally throughout

DISCHARGE PHYSICAL EXAM:
Unchanged.
 
Pertinent Results:
ADMISSION LABS:

___ 08:15PM BLOOD WBC-9.5 RBC-4.15* Hgb-12.6* Hct-36.9* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-12.9 Plt ___
___ 08:15PM BLOOD Neuts-51.3 ___ Monos-10.8 
Eos-4.8* Baso-0.5
___ 08:15PM BLOOD ___ PTT-49.9* ___
___ 08:15PM BLOOD Glucose-109* UreaN-24* Creat-0.8 Na-141 
K-3.6 Cl-107 HCO3-24 AnGap-14
___ 06:30AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.9
___ 06:30AM BLOOD CRP-0.5
___ 08:21PM BLOOD Lactate-1.1
___ 06:30AM BLOOD ESR-25*
 
DISCHARGE LABS:

___ 05:53AM BLOOD WBC-9.5 RBC-4.13* Hgb-12.6* Hct-37.2* 
MCV-90 MCH-30.4 MCHC-33.8 RDW-12.8 Plt ___
___ 05:53AM BLOOD Glucose-106* UreaN-17 Creat-0.8 Na-139 
K-3.7 Cl-104 HCO3-26 AnGap-13
___ 05:53AM BLOOD Calcium-9.2 Phos-3.0 Mg-1.8
___ 05:53AM BLOOD Vanco-14.6

STUDIES:

TTE (___):
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
an anterior space which most likely represents a prominent fat 
pad. 

IMPRESSION: No vegetations or clinically-significant regurgitant 
valvular disease seen (adequate-quality study). Mild symmetric 
left ventricular hypertrophy with normal global and regional 
biventricular systolic function. ___ presence of high clinical 
suspicion, absence of vegetations on transthoracic 
echocardiogram does not exclude endocarditis.

CT SINUS (___):
FINDINGS: There is a new large air collection with an air-fluid 
level ___ the left pre-maxillary soft tissue, measuring 12 x 15 
mm (image 2:9). Scattered pockets of air track along the lateral 
fascia extending posteriorly and superiorly into the margins of 
the left temporalis and masticator muscles. There are also small 
air pockets tracking along the left external and internal 
auditory canal, reaching up to the petrous apex. 
  
A large bony lucency is noted at the expected location of a left 
upper molar ___ #14), ___ keeping with recent extraction of 
infected dental implant. Given the patient had recent 
debridement and biopsy of dental implant, the constellation of 
findings most likely represents iatrogenic subcutaneous air from 
the recent procedure. However, if the patient presents with 
rapidly deteriorating symptoms, necrotizing fasciitis must be 
considered.  
  
There is significant mucosal thickening ___ the left maxillary 
sinus, with 
evidence of left antrostomy. The right maxillary sinus has 
minimal mucosal 
thickening. The remaining paranasal sinuses are clear. The nasal 
septum is 
mildly deviated to the right. A concha bullosa is incidentally 
noted ___ the right upper turbinate. 
  
Allowing the limit due to the absence of IV contrast, there is 
no evidence of abscess. There is no acute facial bone fracture. 
The mastoid air cells are clear bilaterally. The visualized 
brain parenchyma is grossly unremarkable. 
  
IMPRESSION: 
1. Large air collection ___ the left premaxillary soft tissue. 
Small pockets of air tracking along the lateral fascial plane 
posteriorly and superiorly. Most likely iatrogenic given the 
report of recent dental implant removal, biopsy and debridement. 
However, necrotizing fasciitis cannot be excluded if the patient 
present with rapidly deteriorating symptoms. 
2. Moderate sinus disease ___ the left maxillary sinus, with 
evidence of 
antrostomy. 
3. Bony lucency at the expected location of ___, ___ keeping 
with recent 
extraction of dental implant. 

___ 9:30 am TISSUE      LEFT MAXILLARY BONE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      Reported to and read back by ___ ON ___ AT 
1:42PM. 

   TISSUE (Final ___: 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 
      WORK UP PER ___. ___ ___ ___. 
      MICROCOCCUS/STOMATOCOCCUS SPECIES.    SPARSE GROWTH. 
      GRAM POSITIVE RODS.    SPARSE GROWTH.  NOT CORYNEBACTERIUM 
SPECIES. 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 
         Sensitivity testing performed by Sensititre. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             VIRIDANS STREPTOCOCCI
                             |   
CLINDAMYCIN-----------   =>2 R
ERYTHROMYCIN----------   =>4 R
PENICILLIN G----------   0.5 I
VANCOMYCIN------------   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


 
Brief Hospital Course:
REASON FOR HOSPITALIZATION: 
___ M with recent tooth implant now with recurrent sinus 
infections who is presenting from OSH with persistent fevers & 
chills despite antibiotics which was found to be due to 
maxillary osteomyelitis.

ACUTE DIAGNOSES:

# Tooth Implant Infection: Pt was initially treated with IV 
vancomycin, ciprofloaxacin, flagyl. OFMS was consulted and 
recommended removing the implant; the patient went to the OR on 
___ for tooth implant extraction, debridement, & bone 
biopsy.  Pt will follow up with OFMS as outpatient. 

# Maxillary Osteomyelitis: Treated with antibiotics as above.  
Given the question of positive blood cultures at OSH & presumed 
dental source on admission, a TTE was obtained which ruled out 
infective endocarditis. The patient's bone biopsy was consistent 
with osteomyelitis. The patient was followed by ID while 
hospitalized. Preliminary bone biopsy grew GPC & GNRs which were 
ultimately found to be micrococcus & stomatococcus, GPRs, 
Viridans strep. ID recommended disharging the patient on IV 
vancomycin & PO moxifloxacin for 6 weeks.. The patient's OSH 
PICC was removed (tip culture was negative) on admission; a new 
PICC was placed. His blood cultures were remained negative.

# Recurrent Maxillary Sinusitis:  Most likely thought to be due 
recurrent seeding from tooth implant infection and maxillary 
osteomyelitis.  ENT was consulted and recommended obtaining CT 
sinuses/maxilla.  The patient will follow up with ___ ENT.  Pt 
also has hypomobility of R true vocal cord, which will also be 
addressed on an outpatient basis.  

# Diarrhea: Pt noted to have diarrhea after initiation of IV 
antibiotcs.  C. Diff was checked & was negative.  Thought to be 
antibiotic-associated diarrhea.  

# Peripheral Thrombophlebitis: Pt noted to develop indurated, 
erythematous area around one of his IV sites.  Warm packs were 
applied with resolution of symptoms. 

CHRONIC DIAGNOSES:
# HTN: Pt was continued on norvasc, HCTZ, labetalol.

# HLD: Continued atorvastatin.

# Anxiety: Continued xanax.

TRANSITIONAL ISSUES:
# Follow Up: The patient will follow up with ENT, oral surgery, 
& infectious disease

# Lab Draws: The patient will have weekly lab draws to monitor 
CBC, Chem 10, LFTs, vanco trough for 6 weeks while on 
vancomycin.
 
Medications on Admission:
- Labetalol 200 mg QAM, 300 mg QPM
- Lipitor 20 mg QD
- Norvasc 5 mg QD
- HCTZ 25 mg QD
- Singulair 10 mg QHS
- Xanax 0.25-0.5 mg PRN anxiety/insomnia
- Miralax QD
 
Discharge Medications:
1. labetalol 200 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day ___ the morning)).  
2. labetalol 200 mg Tablet Sig: 1.5 Tablets PO QPM (once a day 
___ the evening)).  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
5. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. montelukast 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
7. alprazolam 0.25 mg Tablet Sig: ___ Tablets PO BID (2 times a 
day) as needed for anxiety/insomnia.  
8. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily).  
9. Dressing Change
PICC line dressing change Q7DAYS PRN
10. Medication
Flush PICC line with 10 mL of normal saline before and after 
each medication followed by 5 mL of heparin 10 units/mL (SASH).
11. vancomycin 1,000 mg Recon Soln Sig: 1500 (1500) mg 
Intravenous every twelve (12) hours for 6 weeks.
Disp:*QS QS* Refills:*0*
12. chlorhexidine gluconate 0.12 % Mouthwash Sig: Fifteen (15) 
ML Mucous membrane BID (2 times a day).
Disp:*QS QS* Refills:*2*
13. loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed for diarrhea.
Disp:*QS Capsule(s)* Refills:*0*
14. moxifloxacin 400 mg Tablet Sig: One (1) Tablet PO every 
___ hours for 6 weeks.
Disp:*42 Tablet(s)* Refills:*0*
15. Labwork
Please draw weekly CBC, Chem 10, LFTs, vanco trough ___ for 
6 weeks while on vancomycin. Please fax results to ___ 
(Infectious Disease Clinic at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- Chronic Sinus Infection
- Osteomyelitis

SECONDARY DIAGNOSIS:
- Infected dental implant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr. ___ was a pleasure to participate ___ your care while 
you were at ___. You came to the hospital with an ongoing 
infection of your dental implant and a sinus infection. You were 
started on antibiotic therapy. You had surgery to remove your 
dental implant and your condition improved. You were found to 
have an infection of the jaw bone underlying your tooth. We will 
be continuing your antibiotic treatment for 6 weeks at home.

MEDICATION INSTRUCTIONS:
- Medications ADDED:
---> Vancomycin 1500 mg IV every 12 hours for 6 weeks
---> Moxifloxacin (Avelox) 400 mg by mouth every 24 hours for 6 
weeks
---> Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml twice per 
day (rinse but do not swallow) until follow-up with Dr. ___ 
on ___
---> You may take loperamide for diarrhea
- Medications STOPPED: None.
- Medications CHANGED: None.

You will have your labs monitored while you are on these 
antibiotics.
 
Followup Instructions:
___